US06407289B1
Under nitrogen, a flask is charged with 138 mg (0.0006 mol) of palladium acetate, 0.48 g (0.002 mol) of tri-tert-butylphosphine, 180 grams of dry, deoxygenated toluene. The solution is stirred for 5 minutes until the pale yellow color changed to a red color. The other reagents are added sequentially under nitrogen: 22 mL (0.2 mol) of bromobenzene, 25.3 g (0.26 mol) of sodium t-butoxide and m-toluidine (22 mL, 0.2 mol). The reaction is heated with stirring to reflux for 2.5 hours, at the end of which it was cooled down and analyzed by GC/MS to contain 95-97% of m-methyldiphenylamine. 25.8 g (0.26 mol) of sodium t-butoxide and 38.8 g (0.2 mol) of 1,4-bromochlorobenzene are added; the reaction is filled with nitrogen, and heated to reflux with stirring for 18 hours. The reaction is cooled, water is added, extract the aqueous with toluene. The combined organic layers are dried over sodium sulfate, filtered through a pad of neutral alumina, and the filtrate is distilled to remove the bulk of the solvent. The concentrated solution is treated with MeOH slowly with stirring. The solid is collected to afford 50 g (83%) of (4-chloro-phenyl)-phenyl-m-tolyl amine as an off-white solid.

reactant | bromobenzene | 0.2 mol, 22 mL | BrC1=CC=CC=C1 | C6H5Br
reactant | sodium t-butoxide | 0.26 mol, 25.3 g | CC(C)([O-])C.[Na+]
reactant | m-toluidine | 0.2 mol, 22 mL | NC1=CC(=CC=C1)C | C7H9N
reactant | sodium t-butoxide | 0.26 mol, 25.8 g | CC(C)([O-])C.[Na+]
reactant | 1,4-bromochlorobenzene | 0.2 mol, 38.8 g | C1=CC(=CC=C1Cl)Br | C6H4BrCl
catalyst | palladium acetate | 0.0006 mol, 138 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri-tert-butylphosphine | 0.002 mol, 0.48 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | water | O | H2O
product | (4-chloro-phenyl)-phenyl-m-tolyl amine | 50 g, 83% | ClC1=CC=C(C=C1)N(C=1C=C(C=CC1)C)C1=CC=CC=C1 | C19H16ClN
